US04326071
To a solution of 2 mmole of 4-amino-4-difluoromethylbutyric acid in 5 ml of 1 N sodium hydroxide at 0° C. are added simultaneously from two syringes 2 mmole of benzyl chloroformate in 1 ml of dioxane and 2 ml of 1 N sodium hydroxide. After 30 minutes at 0° C. the solution is acidified by the addition of 6 N hydrochloric acid, then extracted well with dichloromethane. The organic phase is dried and concentrated to afford 4-benzyloxycarbonylamino-4-difluoromethylbutyric acid which is dissolved in 15 ml of dichloromethane and treated with 2 mmole of thionyl chloride at 25° C. for 1 hour after which 4 mmole of propyl amine is added. The solution is stirred at 25° C. for one hour, then washed with water, dried and concentrated. The residue is treated with 6 ml of a solution of dioxane containing 40% w/w hydrogen bromide and allowed to stand for 30 minutes at 25° C. after which 50 ml of ether is added. The resulting precipitate is collected to afford N-propyl 4-amino-4-difluoromethylbutyramide hydrobromide.

reactant | 4-amino-4-difluoromethylbutyric acid | 2 mmole | NC(CCC(=O)O)C(F)F | C5H9F2NO2
reactant | benzyl chloroformate | 2 mmole | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | sodium hydroxide | 1 N, 5 ml | [OH-].[Na+]
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
solvent | sodium hydroxide | 1 N, 2 ml | [OH-].[Na+]
product | 4-benzyloxycarbonylamino-4-difluoromethylbutyric acid | C(C1=CC=CC=C1)OC(=O)NC(CCC(=O)O)C(F)F | C13H15F2NO4
